USRE028973
3-[2-(4-phenyl-4-propionyloxypiperdinyl)ethyl]indole
A mixture of 4 g. (0.0125 mole) of 3-[2-(4-hydroxy-4-phenylpiperidinyl)ethyl]indole, 1.19 g. (0.0125 mole) of propionyl chloride and 7 g. of potassium carbonate in 50 ml. of chloroform was allowed to stir for 2 hours. Then 0.4 g. of additional propionyl chloride was added and allowed to stir another 30 minutes. The mixture was treated with 50 ml. of water and allowed to stir 30 minutes. The chloroform layer was separated, dried over magnesium sulfate and evaporated under reduced pressure to an oil. The oil was crystallized from benzene-isooctane and yielded 3.0 g. (64%) of product which melted at 140°-142° C. After an additional recrystallization the analytical sample melted at 142°-144° C.

reactant | 3-[2-(4-hydroxy-4-phenylpiperidinyl)ethyl]indole | 0.0125 mole | OC1(CCN(CC1)CCC1=CNC2=CC=CC=C12)C1=CC=CC=C1 | C21H24N2O
reactant | propionyl chloride | 0.0125 mole | C(CC)(=O)Cl | C3H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-[2-(4-phenyl-4-propionyloxypiperdinyl)ethyl]indole | C1(=CC=CC=C1)C1(CCN(CC1)CCC1=CNC2=CC=CC=C12)OC(CC)=O | C24H28N2O2
